US06949522B2
(−)-9-[(1S,2S,4R)-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-2-fluoro-2-phenylselenyl-4-thio-β-L-ribofuranosyl]-6-chloropurine (L-21, FIG. 4b)
(−)-9-[(1S,2S,4R)-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-2-fluoro-2-phenylselenyl-4-thio-β-L-ribofuranosyl]-6-chloro-2-fluoropurine (L-22, FIG. 4b) was made using the general procedure for condensation reaction of the acetate L-8 with purines. The compound L-22 was obtained on 1.70-mmol scale in 66% yield. [α]24D −86.5° (c 1.44, CHCl3); UV(CHCl3) λmax 266.0 nm; 1H NMR (CDCl3) δ 8.20 (s, 1H), 7.62˜7.06 (m, 15H), 6.37 (d, J=13.9 Hz, 1H), 3.89 (dd, J=9.7, 6.9 Hz, 1H), 3.80 (td, J=7.8, 1.3 Hz, 1H), 3.72˜3.64 (m, 1H), 2.68˜2.57 (m, 1H), 2.52 (td, J=12.9, 7.7 Hz, 1H), 0.98 (s, 9H); 13C NMR (CDCl3) δ 157.03 (d, J=220.8 Hz), 153.55 (d, J=16.7 Hz), 152.44 (d, J=17.3 Hz), 145.53, 136.28, 135.61, 135.54, 132.82, 132.72, 130.05, 129.99, 129.80 (d, J=4.6 Hz), 129.51, 129.03, 127.84, 124.20, 105.00 (d, J=248.3 Hz), 66.56, 65.92 (d, J=21.1 Hz), 47.38, 41.51 (d, J=20.9 Hz), 26.76, 19.19; Anal. Calcd for C32H31ClF2N4OSSeSi: C, 54.89; H, 4.46; N, 8.00; S, 4.58. Found: C, 54.81; H, 4.64; N, 7.81; S, 4.63.

reactant | (−)-9-[(1S,2S,4R)-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-2-fluoro-2-phenylselenyl-4-thio-β-L-ribofuranosyl]-6-chloro-2-fluoropurine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1C[C@@]([C@@](S1)(N1C2=NC(=NC(=C2N=C1)Cl)F)[SeH])(C1=CC=CC=C1)F | C32H31ClF2N4OSSeSi
reactant | acetate | C(C)(=O)[O-]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (−)-9-[(1S,2S,4R)-5-O-(tert-butyldiphenylsilyl)-2,3-dideoxy-2-fluoro-2-phenylselenyl-4-thio-β-L-ribofuranosyl]-6-chloropurine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1C[C@@]([C@@](S1)(N1C2=NC=NC(=C2N=C1)Cl)[SeH])(C1=CC=CC=C1)F | C32H32ClFN4OSSeSi
